US08420655B2
5-{1-tert-Butyl-2-[5-methoxy-2-(5-methyl-thiazol-2-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 4(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (100 mg, 0.39 mmol) in DMF (10 mL) is added 5-methoxy-2-(5-methyl-thiazol-2-yl)-benzaldehyde (99 mg, 0.43 mmol) at room temperature. Oxone (239 mg, 0.39 mmol) in H2O (2 mL) is added and the solution is stirred for 1 hour. Saturated sodium thiosulfate solution (5 mL) is added and the mixture is extracted with EtOAc (3×10 mL) and H2O (10 mL). The combined organic layer is dried with MgSO4 and filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford the title compound (103 mg, 56%) as a white solid. LCMS (ESMS): m/z 471.20 (M++1)

reactant | 4(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.39 mmol, 100 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 5-methoxy-2-(5-methyl-thiazol-2-yl)-benzaldehyde | 0.43 mmol, 99 mg | COC=1C=CC(=C(C=O)C1)C=1SC(=CN1)C | C12H11NO2S
reactant | Oxone | 0.39 mmol, 239 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
product | 5-{1-tert-Butyl-2-[5-methoxy-2-(5-methyl-thiazol-2-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 103 mg, 56% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)OC)C=2SC(=CN2)C | C26H26N6OS
